US07863347B2
In a 5 L recovery flask, 48.4 g of 3,3′-dibromo-5,5′,7,7′-tetramethyl-1,1′-biadamantane (100 mmol), 688 g of phenol (7.3 mol) and a stirrer were charged and agitated at 155° C. for 30 minutes under nitrogen flow. After cooling the mixture to room temperature, 4.3 L of ion-exchange water was added thereto and agitated at 80° C. for ten minutes. Solid precipitate was collected by filtration, then washed with 7 L of ion-exchange water and dried under reduced pressure, thus obtaining 50.6 g of 3,3′-bis(4-hydroxyphenyl)-5,5′,7,7′-tetramethyl-1,1′-biadamantane (99.0 mmol; yield: 99.0%).

reactant | 3,3′-dibromo-5,5′,7,7′-tetramethyl-1,1′-biadamantane | 100 mmol, 48.4 g | BrC12CC3(CC(CC(C1)(C3)C)(C2)C)C23CC1(CC(CC(C2)(C1)C)(C3)C)Br | C24H36Br2
reactant | phenol | 7.3 mol, 688 g | C1(=CC=CC=C1)O | C6H6O
solvent | water | O | H2O
product | 3,3′-bis(4-hydroxyphenyl)-5,5′,7,7′-tetramethyl-1,1′-biadamantane | 99.0 mmol, 50.6 g, yield: 99.0% | OC1=CC=C(C=C1)C12CC3(CC(CC(C1)(C3)C)(C2)C)C23CC1(CC(CC(C2)(C1)C)(C3)C)C3=CC=C(C=C3)O | C36H46O2
